Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Depakote / Seroquel
 
Attending: ___
 
Chief Complaint:
AMS, HTN
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
In brief, Mr. ___ is a ___ w/ PMH of HTN, ESRD on HD, CAD, 
DM2, schizophrenia, and depression who presented from rehab with 
hypertensive emergency, NSTEMI, and toxic metabolic 
encephalopathy. 

In the ED, Mr. ___ had elevated BPs (127-196/68-132), waxing 
and waning mental status, slurred speech, and troponemia 
consistent with ACS/hypertensive emergency. He was admitted to 
the floor, where he continued to have elevated BPs (SBP 
180-200s) unresponsive to labetolol and IV hydralazine, so he 
was transferred to the ICU for further management.

While in the ICU, Mr. ___ SBPs ranged from 140-180s. He had 
no CP, n/v, or acute changes in vision. Heparin gtt was stopped 
in the setting of elevated BPs. His BPs gradually decreased on 
his home blood pressure medications (lisinopril, hydralazine, 
labetalol, nifedipine). His labetolol was temporarily held for 
episodes of sinus bradycardia. Due to adequate control of his 
BP, he was not started on a nicardipine drip. There was concern 
for left sided facial droop and slurred speech, so a CTA H&N was 
ordered, which was negative. He was evaluated by Neurology, who 
recommended f/u MRI to r/o stroke, MAP>65 for carotid stenosis, 
and EEG.

He underwent two sessions of dialysis with some improvement in 
his BPs. Of note, he has been on vanc w/ HD due to blood 
cultures from ___ HD unit growing GPCs 
(unconfirmed sensitivities). He has a wound culture from ___ 
growing MSSA; however unclear what was cultured, and requires 
f/u with OSH.

Given improvement in BPs, he is now being transferred back to 
the medicine floor, he continues to deny headache, CP, SOB, n/v, 
or acute changes in vision. He endorses a full appetite. 
 
Past Medical History:
-CAD
-MI
-PVD
-NIDDM
-HLD
-HTN
-Schizophrenia
-ESRD on HD MWF
-Epileptic seizures
-Generalized Muscle Weakness
 
Social History:
___
Family History:
Sister HCP in ___ ___ ___. Father had a heart 
attack and passed away. Brother passed at end of ___ of ___. 
Mom passed w/ kidney issues in ___. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: Temp: 97.9 (Tm 97.9), BP: 182/84 (182-200/80-84), HR: 
71,
RR: 20, O2 sat: 95%, Wt: 210.32 lb/95.4 kg 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL (2->1.5), EOMI. Sclera anicteric and without
injection. MMM.
NECK: No cervical lymphadenopathy. No JVD. Negative Kernig and
Brudzinski sign.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. II/VI
holosystolic murmur LLSB. No rubs/gallops.
LUNGS: Decreased breath sounds at bases. No rhonchi or rales.
Increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Alert and Orientedx3 ___, ___,
Slightly slurred speech. CN2-12 intact. ___ strength throughout.
Normal sensation. No pronator drift. Babinski reflex negative
bilaterally.

========================
DISCHARGE PHYSICAL EXAM:
========================
VITALS: Tm 98.5 Tc 98.3 HR 78 BP 153/56 RR 16 SpO2 96% RA
GENERAL: Sitting up in chair in his own pajamas
HEENT: Pupils equal and round, EOM intact. Sclera anicteric and 
without injection. He has a curved L neck scar running from 
behind his ear to 2 fingerbreadths below the mandible 
CARDIAC: Regular rhythm, normal rate. Normal S1 and S2. No
murmurs/rubs/gallops. JVP <10cm
LUNGS:  Distant breath sounds. No wheezes, rhonchi or rales.
ABDOMEN: Non distended, soft abdomen. 
EXTREMITIES: Warm and well perfused. LUE with improved bruising 
overlying the triceps.
NEUROLOGIC: Alert and oriented to person, place, and day of the
week. Facial asymmetry that is effort dependent, with full and
symmetric smile and grimace. Slurred speech. CN2-12 intact. 
Moves
all four extremities. DOWB intact. 

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 12:05AM BLOOD WBC-4.0 RBC-2.54* Hgb-7.9* Hct-24.8* 
MCV-98 MCH-31.1 MCHC-31.9* RDW-18.3* RDWSD-64.2* Plt Ct-93*
___ 12:05AM BLOOD Neuts-69.3 Lymphs-16.6* Monos-10.8 
Eos-1.0 Baso-1.0 Im ___ AbsNeut-2.76 AbsLymp-0.66* 
AbsMono-0.43 AbsEos-0.04 AbsBaso-0.04
___ 12:05AM BLOOD ___ PTT-29.1 ___
___ 12:05AM BLOOD Plt Smr-LOW* Plt Ct-93*
___ 05:00AM BLOOD Ret Aut-5.0* Abs Ret-0.13*
___ 12:05AM BLOOD Glucose-145* UreaN-42* Creat-7.6* Na-137 
K-5.2 Cl-94* HCO3-28 AnGap-15
___ 12:05AM BLOOD CK(CPK)-238
___ 05:00AM BLOOD ALT-16 AST-14 AlkPhos-120
___ 12:05AM BLOOD CK-MB-5
___ 12:05AM BLOOD cTropnT-2.01*
___ 12:05AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.6
___ 05:00AM BLOOD Vanco-19.3
___ 12:09AM BLOOD Lactate-1.3

===============
DISCHARGE LABS:
===============
___ 07:10AM BLOOD WBC-6.2 RBC-3.12* Hgb-9.6* Hct-29.7* 
MCV-95 MCH-30.8 MCHC-32.3 RDW-17.1* RDWSD-59.2* Plt ___
___ 07:10AM BLOOD Glucose-105* UreaN-20 Creat-5.0*# Na-135 
K-4.5 Cl-93* HCO3-26 AnGap-16
___ 07:10AM BLOOD Calcium-8.7 Phos-4.2 Mg-1.9

========
STUDIES:
========
CTA ___ and CTA Neck ___:
1. There is short segment narrowing of the distal cervical 
segment of the left internal carotid artery secondary to 
calcified and noncalcified plaque causing approximately 60% 
stenosis by NASCET criteria. There is no right cervical internal 
carotid artery stenosis by NASCET criteria. 
2. Diffuse right cervical vertebral artery occlusion with 
reconstitution at the right V3 segment appears chronic. The 
intracranial right vertebral artery is diffusely narrowed 
secondary to atherosclerotic disease. 
3. Atherosclerotic calcification of the intracranial circulation 
is identified, most prominently noted of the right vertebral 
artery, with severe stenosis near its junction with the basilar. 
The remainder of the intracranial circulation demonstrates no 
high-grade stenosis, occlusion or aneurysm. 
4. Multiple enhancing lesions in the parotid glands, the largest 
measure 1.5 x 2.0 cm in the right parotid gland. Findings likely 
represent bilateral Warthin's tumors. These can be further 
evaluated with ultrasound. 
5. Mediastinal lymphadenopathy partially imaged measuring up to 
1.7 cm. 
6. Large bilateral pleural effusions. 

CXR ___: Findings consistent with moderate interstitial 
pulmonary edema.

Transthoracic echo ___: 
Mild symmetric left ventricular hypertrophy with normal cavity 
size (for BSA) and mild regional systolic dysfunction c/w CAD in 
an RCA distribution. Increased PCWP. Grade III/IV diastolic 
dysfunction. Moderate right ventricular cavity dilation with 
mild systolic dysfunction. Mild
aortic stenosis. Moderate ischemic mitral regurgitation. Mild to 
moderate tricuspid regurgitation. Severe pulmonary artery 
systolic hypertension.

MR ___ without contrast ___: Old infarcts in R parietal lobe, 
no new infarcts. R level II cervical lymphadenopathy noted

CT Chest/Abd/Pelvis ___: No evidence of lymphoma, 
lymphadenopathy, or malignancy. Bilateral pleural effusions R>L

Femoral artery ultrasound (___): No bypass grafts are prior 
stent visualized. Right lower extremity proximal arteries 
without hemodynamically significant stenosis. Increased peak 
systolic velocity of the left common femoral artery and the 
proximal superficial femoral artery consistent with undefined 
stenosis.

Parotid U/S (___): Bilateral hypoechoic vascular parotid 
nodules.  Imaging characteristics by sonography are nonspecific, 
and most commonly representing Warthin's tumors given 
multiplicity, but difficult to differentiate sonographically 
from pleomorphic adenomas. 

RUE U/S (___): Ultrasound of the RUE AV fistula shows no 
drainable fluid or abscess around the fistula site

EGD ___: grade C esophagitis in distal esophagus, single 5mm 
long linear ulcer at GE junction with visible vessel (endoclip), 
ulcer in antrum and near incisura angularis (biopsy), duodenal 
bulb had some patchy erythema c/w duodenitis

=============
MICROBIOLOGY:
=============
Blood Cx from dialysis (___): Staph warneri
Blood cultures: NGTD
C. diff (___): PCR and toxin positive
___: E. coli
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
 
Brief Hospital Course:
SUMMARY: Mr. ___ is a ___ w/ PMH of HTN, ESRD on HD, CAD, DM2, 
schizophrenia, and depression who presented from rehab with AMS, 
bacteremia, NSTEMI in the setting of hypertensive emergency, 
stabilized on an oral antihypertensive regimen and worked up for 
NSTEMI and ruled out for CVA infarct, treated with IV 
antibiotics for suspicion of coag-negative Staph bacteremia, 
MSSA soft tissue infection, and E. coli UTI. His course was 
complicated by hematemesis for which he underwent 
esophagogastroduodenoscopy on ___ showing esophagitis, an ulcer 
at the GE junction with a vessel that was clipped, and an 
additional antral ulcer that was biopsied, without further 
evidence of bleeding subsequently.

====================
Acute Medical Issues
====================
#Hypertensive Emergency
Patient presented with BP 215/115 at ___ and was started on 
nicardipine gtt. His BP ranged from 127-196/68-132 in the ED. He 
had evidence of end organ damage from HTN (demand ischemia, SOB, 
creatinine slightly elevated above
baseline). He was seen by cardiology and due to risk of stroke, 
MI, end-organ dysfunction, decision was made to not decrease BP 
more than 25% over first 24hrs. He was restarted on his home 
antihypertensives once SBP was <180, and was ultimately 
stabilized on a PO regimen of labetalol 200 mg bid, hydralazine 
75mg q6h, nifedipine 60mg ER BID, isosorbide dinitrate 30 mg 
tid, and lisinopril 40mg daily. Of note, patient was noted to 
have significant intradialytic hypertension and should be 
receiving all antiHTNs before HD on MWF. 
[] Continue to f/u blood pressures and ensure compliance with 
hemodialysis
[] Please ensure that he continues all his antihypertensives, 
including in the morning before dialysis on dialysis days. If he 
continues to be hypertensive, can consider switching the 
labetalol to carvedilol for intradialytic hypertension.

# NSTEMI
# CAD
On admission troponin was found to be 2.38, likely secondary to 
hypertensive emergency. EKG showed lateral ST depressions in the 
context of intermittent chest discomfort. It was unclear whether 
the patient had ever had a coronary artery stent placed. Per 
___ records, he did have a stent placed in his RUE 
AV fistula, and there were records of a cardiac catheterization 
in ___ but by report no coronary stent was placed. Lipid panel 
was unremarkable. He was evaluated by cardiology who recommended 
medical management and deferring catheterization given concerns 
for bacteremia, AMS, possible non-compliance with dual 
antiplatelet therapy, as well as acute gastrointestinal 
bleeding. Home ticagrelor, labetalol, atorvastatin were 
continued. Patient was additionally started on ASA 81mg qd. TTE 
showed regional wall motion abnormalities in a RCA distribution.
[] f/u with Cardiology for repeat TTE and consideration of 
catheterization as an outpatient
[] Patient remains on DAPT, decision should be made as 
outpatient about risks/benefits of continuing (NSTEMI as above, 
also patient has fistula stent, the manufactures of which do 
recommend at least ___ DAPT)

#UGI bleed
#Hematemesis: 
Started feeling nauseous evening of ___ and vomited three times 
that evening without bloody appearance, then on ___ had 
multiple further episodes of emesis that was coffee ground in 
appearance. Underwent EGD ___ showing esophagitis and GE 
junction ulcer with a vessel present that was clipped. Also 
noted was an antral ulcer that was biopsied. He is on dual 
antiplatelet therapy and possibly also has platelet dysfunction 
secondary to uremia, making him a higher risk for re-bleed. 
Received 1U PRBCs ___ at HD. Post-transfusion Hgb stable. He was 
started on Carafate as well.
[]Pantoprazole 40 mg po bid at least x8 weeks until GI follow-up
[]Repeat EGD in 8 weeks
[]f/u with ___ GI as scheduled, H. pylori result pending (from 
biopsy)

# Dysarthria
# Macroglossia 
Patient presented with slurred speech for ___ weeks, which per 
HD nurse, is off of baseline. Nursing was concerned for 
aspiration during breakfast on ___. B12 and iron studies wnl. 
He was seen by neurology who recommended MRI ___ which showed 
old R parietal infarcts but no evidence of new infarcts. He was 
also evaluated by speech and swallow who recommended a diet of 
soft solids cut into small pieces and thin liquids. SPEP normal. 
EEG was ordered to asses for subclinical seizures and showed 
nonspecific temporal slowing consistent with delirium but no 
evidence of seizure activity.
[] Diet: Regular heart healthy diet with low sodium and 
restricted potassium and phosphate
[] f/u with ___ and Neck surgery for evaluation 
of tongue function and parotid masses

#Bilateral parotid masses: Incidentally found to have bilateral 
parotid masses on ___ and neck CT angiogram. Underwent parotid 
U/S showing bilateral hypoechoic parotid masses (2.5 cm on R, 
1.7 cm on left), consistent with either Warthin's tumors or 
pleomorphic adenomas. ___ have a had a L parotidectomy years 
ago, patient is unsure.
[] Follow up with ___ and Neck Surgery for 
further evaluation and biopsy of parotid masses, as well as 
dysarthria as above

#Cervical lymphadenopathy: Incidentally found to have R level II 
cervical lymphadenopathy on ___ MRI ___. Underwent CT 
chest/abdomen/pelvis with contrast to assess for other 
lymphadenopathy and metastatic causes, all of which were 
negative.

# Seizure disorder: Continued home lamictal. EEG results as 
above.

# Delirium
# Agitation
# Schizophrenia
Patient presented with waxing and waning mental status, which 
improved throughout his course. Etiology may be hypertensive 
encephalopathy vs. sepsis vs. medications. He was continued on 
his home psychiatric medication regimen of Fluphenazine 10 mg 
BID, Lamotrigine 100 mg ___, Oxcarbazapine 
300 mg daily, Clonazepam 1 mg QHS, Benztropine 1 mg BID. Home 
hydroxyzine 50 mg PRN, Diazepam 5 mg prior to dialysis, and 
Clonazepam 0.5 mg TID PRN anxiety were held. MRI ___, EEG, TTE 
as above. Antihypertensives were continued as above. He was 
maintained on delirium precautions throughout his course.
[] Continue psychiatric regimen as per discharge summary.

# Staphylococcus warneri bacteremia and AV fistula MSSA soft 
tissue infection 
Blood cultures from ___ ___ Dialysis Unit growing 
pan-sensitive Staphylococcus warneri (coagulase negative staph). 
Wound cultures from ___ at diaylsis unit grew MSSA, reportedly 
from RUE AV fistula site. He was initially treated with 
Vancomycin and then switched to Cefazolin until ___. Blood 
cultures drawn at time of admission showed no growth. U/S of the 
RUE fistula site demonstrated no abscess or fluid collection.

#Complicated E coli UTI: Resistant to Bactrim, sensitive to 
cephalosporins, completed 5 day antibiotics course of Cefazolin.

# Chronic anemia: 
Patient was found to have normocytic anemia with decreased iron 
binding
capacity, elevated ferritin, and decreased transferrin, 
consistent with Anemia of chronic disease. His H/H remained 
stable throughout his course.
[] Consider EPO with hemodialysis, darbepoetin was held given 
significant HTN

# Thrombocytopenia:
Patient presented with thrombocytopenia to 80, with unclear 
chronicity. He had no evidence of hemolysis on labs concerning 
for TTP, HUS, or DIC. He also had no history of liver disease. 
Possible etiologies include ITP vs. medication-mediated. He was 
monitored with daily CBCs and >100 at time of discharge. He will 
follow-up as an outpatient for continued workup. 
[] Repeat CBC as outpatient to ensure stability of platelet 
count.

#C. diff infection: He developed diarrhea during his antibiotic 
treatment for his MSSA skin infection and UTI, and was found to 
be C. diff positive (both PCR and toxin positive). PO vancomycin 
started on ___. 
[]Complete PO vancomycin course x10 days (last day is ___

#Health maintenance: He was found to be non-immune to Hepatitis 
B. Given that he is on hemodialysis, vaccination will require 
special dosing in coordination with his dialysis, so it was 
deferred to the outpatient setting.
[] Administer hepatitis B vaccine in coordination with 
outpatient dialysis team

=====================
Chronic Medical Issues
======================
#ESRD on HD on ___. 
- He continued HD as scheduled, per nephrology recommendations. 
[] Consider adding EPO at dialysis

#T2DM: 
- He was maintained on sliding scale insulin throughout his 
course.

===================
Transitional Issues
===================
Follow-up:
[] Please follow up with Cardiology, Gastroenterology, and 
___ and Neck surgery
[] Please continue outpatient hemodialysis and consider EPO
[] Diet: Regular diet with low sodium, potassium, and phosphate

Studies/Labs:
[] f/u H pylori test from EGD, will need treatment if positive
[] if not H pylori test sent on EGD, please send antigen
[] Repeat CBC as outpatient in 1 week for platelet count and Hb
[] Consider cardiac catheterization with cardiology

Medications:
[] Consider EPO with dialysis
[] Ensure close compliance with all medications, particularly 
dual antiplatelet therapy and antihypertensives.
[] Administer hepatitis B vaccine in coordination with 
outpatient dialysis team
[] Please complete 10 day course of PO vancomycin for C. diff 
(last day ___

Procedures:
[] Consider parotid biopsy for bilateral parotid masses

Advanced Care Planning
Code status: Full code per MOLST
Contact: Sister, ___ (emergency contact) ___ or
___. Cousin is alt. contact - ___ cell: 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
3. Ascorbic Acid ___ mg PO BID 
4. Atorvastatin 80 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. ClonazePAM 0.5 mg PO QHS 
7. Dextrose 50% 12.5 gm IV PRN Hypoglycemia 
8. Diazepam 5 mg PO Q8H:PRN Anxiety 
9. Fluphenazine 10 mg PO BID 
10. Nephrocaps 1 CAP PO DAILY 
11. HydrALAZINE 50 mg PO QID 
12. HydrOXYzine 50 mg PO TID:PRN Anxiety 
13. Labetalol 100 mg PO TID 
14. LamoTRIgine 100 mg PO TUES, THURS, AND SAT 
15. Lisinopril 40 mg PO DAILY 
16. NIFEdipine (Extended Release) 60 mg PO BID 
17. Humulin-R Insulin (U-500) per SSI UNIT SC Frequency is 
Unknown 
18. Benztropine Mesylate 1 mg PO BID 
19. Ferrous Sulfate 325 mg PO BID 
20. TiCAGRELOR 90 mg PO BID 
21. Calcium Acetate 667 mg PO TID W/MEALS 
22. OXcarbazepine 300 mg PO DAILY 
23. Terazosin 10 mg PO BID 
24. Milk of Magnesia 30 mL PO PRN Constipation - Second Line 
25. Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line 
26. Fleet Enema (Saline) 1 Enema PR ONCE:PRN If bisacodyl supp 
is ineffective 
27. Docusate Sodium 200 mg PO QHS 
28. Omeprazole 20 mg PO DAILY 
29. melatonin 6 mg oral qhs 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Isosorbide Dinitrate 30 mg PO TID  
3.  Pantoprazole 40 mg PO Q12H  
4.  Sucralfate 1 gm PO QID  
5.  Vancomycin Oral Liquid ___ mg PO QID Duration: 10 Days  
6.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
7.  Benztropine Mesylate 0.5 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  HydrALAZINE 75 mg PO Q6H  
10.  Labetalol 200 mg PO BID  
11.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
12.  Ascorbic Acid ___ mg PO BID  
13.  Atorvastatin 80 mg PO QPM  
14.  Bisacodyl 10 mg PR QHS:PRN Constipation - Third Line  
15.  Calcium Acetate 667 mg PO TID W/MEALS  
16.  ClonazePAM 0.5 mg PO QHS  
17.  Dextrose 50% 12.5 gm IV PRN Hypoglycemia  
18.  Docusate Sodium 200 mg PO QHS  
19.  Fleet Enema (Saline) 1 Enema PR ONCE:PRN If bisacodyl supp 
is ineffective  
20.  Fluphenazine 10 mg PO BID  
21.  LamoTRIgine 100 mg PO TUES, THURS, AND SAT  
22.  Lisinopril 40 mg PO DAILY  
23.  melatonin 6 mg oral qhs  
24.  Milk of Magnesia 30 mL PO PRN Constipation - Second Line  
25.  Nephrocaps 1 CAP PO DAILY  
26.  NIFEdipine (Extended Release) 60 mg PO BID  
27.  OXcarbazepine 300 mg PO DAILY  
28.  Terazosin 10 mg PO BID  
29.  TiCAGRELOR 90 mg PO BID  
30.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses
==================
Hypertensive Emergency
NSTEMI
Dysarthria
Seizure disorder
Delirium
Schizophrenia
Bacteremia
Chronic anemia
Thrombocytopenia
Upper GI bleed
Gastric ulcers
Esophagitis

Secondary diagnoses
====================
ESRD on HD MWF
T2DM

 
Discharge Condition:
AfVSS
Mental status: Impulsive but alert and oriented to person, 
place, and time most of the time. Compliant with medications. 
Ambulatory without assistance
Dysarthric

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
 
- You were admitted because you had high blood pressure and you 
were confused. 

What happened while I was in the hospital?  

- You received medicine to help lower your blood pressure. Due 
to your elevated blood pressure, you were found to be having a 
non ST-segment elevation myocardial infarction (a kind of heart 
attack), which did not progress further after your blood 
pressure was under better control. You received an MRI of your 
___ which showed evidence of an old stroke, but no new strokes. 
There was concern for blood stream infection so you were treated 
with intravenous antibiotics.
- You underwent numerous tests, including multiple ultrasounds 
of your heart (echocardiograms). These showed signs of regional 
motion problems likely due to coronary artery disease (narrowing 
of the blood vessels around the heart). However, you did not 
undergo stenting given the likely chronic nature of your heart 
disease and due to concern for your gastrointestinal bleeding.
- You underwent regular hemodialysis on ___, and 
___ as scheduled.
- During this admission, you were also nauseous and vomiting 
blood. To evaluate the source of the bleeding, you were seen by 
the gastroenterologists and taken for esophagoduodenoscopy (EGD 
or "upper endoscopy"), and were found to have esophagitis 
(inflammation of the tube connecting your mouth to your stomach) 
and 2 different ulcers, one of which had a blood vessel that was 
clipped to prevent bleeding. you also had evidence of 
inflammation in your duodenum. For your ulcers, you were started 
on the medication pantoprazole.
-You were treated with intravenous antibiotics for suspicion for 
a bloodstream infection, a soft tissue infection at the site of 
your AV fistula, and a urinary tract infection.
-You developed diarrhea and were found to have C. difficile 
infection, for which you were started on treatment with oral 
vancomycin.
-You were also found to have difficulty speaking, and were 
evaluated by the speech language pathology team.
-You were found to have masses in both of your parotid glands 
(the largest glands in your cheeks that make saliva), which will 
require follow-up as an outpatient.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___